US07759379B2
3-(2,2-Diethoxy-ethoxy)-4-methoxy-phenylamine
A mixture of 10.70 g 2-(2,2-diethoxy-ethoxy)-1-methoxy-4-nitro-benzene and 1.20 g of 10% palladium on carbon in 150 ml methanol was stirred for 2 hours under hydrogen atmosphere. The reaction mixture was filtered through a chem elut cartridge and the compound eluted with additional methanol. After contration under reduced pressure the residue was directly subjected to the subsequent reaction without further purification.

reactant | 2-(2,2-diethoxy-ethoxy)-1-methoxy-4-nitro-benzene | 10.70 g | C(C)OC(COC1=C(C=CC(=C1)[N+](=O)[O-])OC)OCC | C13H19NO6
catalyst | palladium on carbon | 1.20 g | [Pd] | Pd
solvent | methanol | 150 ml | CO | CH4O
product | 3-(2,2-Diethoxy-ethoxy)-4-methoxy-phenylamine | C(C)OC(COC=1C=C(C=CC1OC)N)OCC | C13H21NO4
